US08686152B2
To a solution of solution of 4-(4-methoxycarbonyl-benzyl)-piperidine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester (9.35 mmol; 3.53 g) in DMF (40 mL) was added cyclohexylamine (11.22 mmol; 1.28 mL), N, N-diisopropyl-N-ethylamine (23.38 mmol; 4.14 mL) and HBTU (11.22 mmol; 4.26 g), and the resulting mixture was stirred at room temperature overnight. Ethyl acetate (200 mL) was added, and the resulting solution was washed with a 1N hydrochloric acid solution (2×25 mL), and brine (25 mL), and dried over magnesium sulfate. After filtration and evaporation, the residue was purified via flash column chromatography (eluent gradient: 0 to 70% EtOAc in heptane) to yield 4-cyclohexylcarbamoyl-4-(4-methoxycarbonyl-benzyl)-piperidine-1-carboxylic acid tert-butyl ester after evaporation. The material thus obtained was dissolved in dichloromethane (25 mL) and trifluoroacetic acid (25 mL) was added. The resulting mixture was stirred for 2 hours at room temperature and evaporated. The residue was dissolved in dichloromethane (300 mL) and washed with a saturated sodium bicarbonate solution (50 mL) and brine (50 mL). The organic phase was dried over magnesium sulfate, filtered, and evaporated to yield 4-(4-cyclohexylcarbamoyl-piperidin-4-ylmethyl)-benzoic acid methyl ester. MS (ESI) m/z 459.30 [M+H]+.

reactant | 4-(4-methoxycarbonyl-benzyl)-piperidine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester | 9.35 mmol, 3.53 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)C(=O)OC | C27H33NO6
reactant | cyclohexylamine | 11.22 mmol, 1.28 mL | C1(CCCCC1)N | C6H13N
reactant | N, N-diisopropyl-N-ethylamine | 23.38 mmol, 4.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 11.22 mmol, 4.26 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-cyclohexylcarbamoyl-4-(4-methoxycarbonyl-benzyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC1=CC=C(C=C1)C(=O)OC)C(NC1CCCCC1)=O | C26H38N2O5
